US07276603B2
8-{4-[2-(5-chloro-1-benzofuran-3-yl)ethyl]-1-piperazinyl}-6-methyl-quinoline was prepared by generally following the procedure outlined in example 12, step 6, starting from the 2-(5-chloro-1-benzofuran-3-yl)ethyl iodide (306 mg, 1 mmol) and 6-methyl-8-piperazino quinoline (227 mg, 1 mmol). The product was purified by silica-gel column chromatography by initially eluting it with 80% ethyl acetate:hexane and then with 5% methanol:ethyl acetate, yielding a brown oil. Yield: 140 mg (34%); (M+H): 406; 1HNMR (400 MHz, CDCl3): δ□8.82˜8.80 (dd, J1=1.7 Hz, J2=1.7 Hz, 1H), 8.03˜7.80 (dd, J1=1.7 Hz, J2=1.7 Hz 1H), 7.60˜6.70 (m, 7H), 3.48˜2.81 (m, 12H), 2.5 (s, 3H).

reactant | 2-(5-chloro-1-benzofuran-3-yl)ethyl iodide | 1 mmol, 306 mg | ClC=1C=CC2=C(C(=CO2)CCI)C1 | C10H8ClIO
reactant | 6-methyl-8-piperazino quinoline | 1 mmol, 227 mg | CC=1C=C2C=CC=NC2=C(C1)N1CCNCC1 | C14H17N3
product | 8-{4-[2-(5-chloro-1-benzofuran-3-yl)ethyl]-1-piperazinyl}-6-methyl-quinoline | ClC=1C=CC2=C(C(=CO2)CCN2CCN(CC2)C=2C=C(C=C3C=CC=NC23)C)C1 | C24H24ClN3O
